US05225601
4-Hydroxymethylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether
A solution of 0.97 g (9 mmol) of ethyl chloroformate in 5 ml of tetrahydrofuran was added dropwise to a solution of 3 g (9 mmol) of 4-carboxybenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether and 0.9 g (9 mmol) of triethylamine in 20 ml of dry tetrahydrofuran at 0° C. The mixture was stirred at 0° C. for 30 min, the solid was filtered off, and the filtrate was added dropwise to a solution of 0.83 g (22 mmol) of sodium borohydride in 8 ml of tetrahydrofuran and 8 ml of water. The reaction mixture was then allowed to reach room temperature within 1 h and was then acidified with 1N hydrochloric acid. Most of the tetrahydrofuran was removed in a rotary evaporator, and the remaining aqueous phase was extracted with chloroform. The organic phase was dried over Na2SO4 and concentrated. Fractional crystallization from ethyl acetate, discarding the first fraction, resulted in 1.1 g of the title compound of melting point 108°-109° C.

reactant | ethyl chloroformate | 9 mmol, 0.97 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-carboxybenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 9 mmol, 3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C(=O)O)C | C22H26O3
reactant | triethylamine | 9 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 22 mmol, 0.83 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | 4-Hydroxymethylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 1.1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)CO)C | C22H28O2
